US07138425B2
a) 2-(3-Amino-4-methoxyphenyl)-benzoxazole
Prepared by the method of Example 1a), from 2-aminophenol (326 mg, 2.9 mmol) and 4-methoxy-3-aminobenzoic acid (500 mg, 2.9 mmol) the subtitle compound was obtained, 97 mg (13%). 1H NMR (CDCl3) δ 7.66–7.45(m, 4H), 7.24(m, 2H), 6.82(d, J=8.3 Hz, 1H), 3.86(s, 3H). MS 241 m/z (M+H)+.

reactant | 2-aminophenol | 2.9 mmol, 326 mg | NC1=C(C=CC=C1)O | C6H7NO
reactant | 4-methoxy-3-aminobenzoic acid | 2.9 mmol, 500 mg | COC1=C(C=C(C(=O)O)C=C1)N | C8H9NO3
product | 2-(3-Amino-4-methoxyphenyl)-benzoxazole | NC=1C=C(C=CC1OC)C=1OC2=C(N1)C=CC=C2 | C14H12N2O2
